US09278968B2
To a solution of 430 mg of 3-(tert-butoxycarbonyl)-2,2,4-trimethyl-1,3-oxazolidine-4-carboxylic acid in 4 ml of DMF was added 296 mg of 1,1′-carbonyldiimidazole, followed by stirring at room temperature for 2 hours. To the reaction mixture was added 146 mg of N-hydroxyacetamidine, followed by stirring at room temperature for 1 hour, at 110° C. for 2 hours, and then at 130° C. overnight. The reaction mixture was left to be cooled to room temperature and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 390 mg of tert-butyl 2,2,4-trimethyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-1,3-oxazolidine-3-carboxylate.

reactant | 3-(tert-butoxycarbonyl)-2,2,4-trimethyl-1,3-oxazolidine-4-carboxylic acid | 430 mg | C(C)(C)(C)OC(=O)N1C(OCC1(C(=O)O)C)(C)C | C12H21NO5
reactant | 1,1′-carbonyldiimidazole | 296 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-hydroxyacetamidine | 146 mg | ONC(C)=N | C2H6N2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2,2,4-trimethyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-1,3-oxazolidine-3-carboxylate | 390 mg | CC1(OCC(N1C(=O)OC(C)(C)C)(C1=NC(=NO1)C)C)C | C14H23N3O4
